data/rdb19/train.csv
rxn,smiles,ea
4121,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2]([C:3](=[C:4]([H:14])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[H:15][C:25]1([H:33])[C:24]([H:32])[C:23]([H:31])=[C:22]([C:21](=[C:20]([H:28])[H:29])[H:30])[C:27]([H:35])=[C:26]1[H:34],41.78340126317926
5445,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])([H:16])[C:21]([C:20]([C:19]([H:28])([H:29])[H:30])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:22])[H:23],53.06472614541417
322,[C:4]([O:5][C:6](=[O:7])[C:8](=[C:9]([H:14])[H:15])[C:10]([H:16])([H:17])[H:18])([H:11])([H:12])[H:13].[O:1]([O:2])[H:3]>>[O:1][O:2][C:8]([C:6]([O:5][C:4]([H:11])([H:12])[H:13])=[O:7])([C:9]([H:3])([H:14])[H:15])[C:10]([H:16])([H:17])[H:18],19.65556851029396
2782,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][C:24]1([H:32])[C:23]([H:31])=[C:22]([C:21](=[C:20]([H:28])[H:29])[H:30])[C:27]([H:35])=[C:26]([H:34])[C:25]1[H:33],39.97863538347883
2951,[C:16]([O:17][C:18](=[O:19])[C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[C:23]([H:24])[H:25])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4]([O:5])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:23]([C:20]([C:18]([O:17][C:16]([H:26])([H:27])[H:28])=[O:19])([C:21]([H:29])([H:30])[H:31])[C:22]([H:32])([H:33])[H:34])([H:24])[H:25])([H:11])[H:12])([H:8])([H:9])[H:10],27.10174606804503
5090,[C:11]([C:12]([C:13]([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])[H:22])([H:18])([H:19])[H:20].[C:1]([O:2][H:21])([H:5])([H:6])[H:7].[C:3](=[C:4]([H:9])[H:10])[H:8],70.10587022535037
2163,[C:11]([C:12]([C:13]([H:14])[H:15])([N:16]([C:17](=[O:18])[H:24])[H:23])[H:22])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[H:15])[N:16]([C:17](=[O:18])[H:24])[H:23])([H:19])([H:20])[H:21].[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[H:22])([H:6])[H:7],48.77746506803669
1141,[C:1]([C:2]([C:3]([H:4])[C:15]([N:14]([H:19])[H:20])([O:16][C:5](=[O:6])[O:7][H:13])[C:17](=[C:18]([H:22])[H:23])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]1([H:4])[C:5]([O:6][H:12])([O:7][H:13])[O:16][C:15]1([N:14]([H:19])[H:20])[C:17](=[C:18]([H:22])[H:23])[H:21])[H:11])([H:8])([H:9])[H:10],54.19186863396317
875,[C:19]([C:20]([C:21]([H:22])[c:23]1[c:24]([H:34])[c:25]([H:35])[c:26]([H:36])[c:27]([H:37])[c:28]1[H:38])([H:32])[H:33])([H:29])([H:30])[H:31].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[C:21]([C:20]([C:19]([H:29])([H:30])[H:31])([H:32])[H:33])([H:22])[c:23]1[c:24]([H:34])[c:25]([H:35])[c:26]([H:36])[c:27]([H:37])[c:28]1[H:38])([H:8])([H:9])[H:10].[C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13],62.245761212310754
1104,[C:14]([C:15]([C:16]([C:17]([H:27])([H:28])[H:29])([N:18]([C:19](=[O:20])[H:31])[H:30])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[O:8][H:13])([H:9])([H:10])[H:11].[H:12][C:19]([N:18]([C:16]([C:15]([C:14]([H:21])([H:22])[H:23])([H:24])[H:25])([C:17]([H:27])([H:28])[H:29])[H:26])[H:30])([O:20])[H:31],49.00822783197509
260,[C:4]([C:5]([C:6]([C:7]([H:15])([H:16])[H:17])([C:8]([H:18])([H:19])[H:20])[C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[O:1]([O:2])[H:3]>>[C:4]([H:10])([H:11])[H:12].[O:1]([O:2][C:5]([C:6]([C:7]([H:15])([H:16])[H:17])([C:8]([H:18])([H:19])[H:20])[C:9]([H:21])([H:22])[H:23])([H:13])[H:14])[H:3],73.64183884760132
